US05607929
(a) 4-Methyl-1,3-benzothiazole
4-Methyl-2-amino-1,3-benzothiazole (4.93 g, 30 mmol) was dissolved in phosphoric acid (85%, 200 ml) with warming and vigerous stirring. The solution was cooled (-10°) and aqueous sodium nitrite (12.42 g in 35 ml water) added with stirring and cooling to maintain the temperature below -4°. The resulting solution was added dropwise, with vigerous stirring, to a cooled solution of hypophosphorus acid (50% by weight, 75 ml) at 0°. The reaction mixture was allowed to warm to ambient temperature and when evolution of gas was complete the mixture was diluted with ice-water, neutralised with sodium carbonate and extracted with dichloromethane (about 2.5 litres). Evaporation of the organic extracts, after drying over magnesium sulphate, gave an orange oil that was purified by chromatography on silica (dichloromethane as eluant). The product with adequate purity for further reaction was obtained as a dark orange oil.

reactant | 4-Methyl-2-amino-1,3-benzothiazole | 30 mmol, 4.93 g | CC1=CC=CC2=C1N=C(S2)N | C8H8N2S
reactant | sodium nitrite | 35 ml, 12.42 g | N(=O)[O-].[Na+]
reactant | hypophosphorus acid | 75 ml | OP=O | HO2P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | phosphoric acid | 200 ml | P(O)(O)(O)=O | H3O4P
product | 4-Methyl-1,3-benzothiazole | CC1=CC=CC2=C1N=CS2 | C8H7NS
